datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([C:4]#[C:5][H:9])[H:8])[H:7])[H:6].[C:10](#[C:11][C:12]([C:13]([H:16])([H:17])[H:18])[C:14]([H:19])([H:20])[H:21])[H:15]>>[C:0](#[C:1][C:2]([C:3]([C:4]#[C:5][H:9])[H:8])([H:7])[C:12]([C:11]#[C:10][H:15])([C:13]([H:16])([H:17])[H:18])[C:14]([H:19])([H:20])[H:21])[H:6],24.309
[C:0]([O:1][C:2]([C:3]([H:8])([H:9])[H:10])=[O:4])([H:5])([H:6])[H:7].[C:11]([O:12][O:13])([H:14])([H:15])[H:16]>>[C:0]([O:1][C:2]([C:3]([H:8])([H:9])[H:10])=[O:4])([H:6])[H:7].[H:5][O:13][O:12][C:11]([H:14])([H:15])[H:16],68.99416
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([O:4][O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8].[O:15][O:16][H:17]>>[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([O:4][O:5][H:17])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8].[O:15][O:16],-13.7026
[C:0](=[C:1]([C:2]([S:3][H:8])[H:7])[H:6])([H:4])[H:5].[C:9]([C:10]([c:11]1[c:12]([H:22])[c:13]([H:23])[c:14]([H:24])[c:15]([H:25])[c:16]1[H:26])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([S:3][H:8])([H:7])[H:20])[H:6])([H:4])[H:5].[C:9]([C:10]([c:11]1[c:12]([H:22])[c:13]([H:23])[c:14]([H:24])[c:15]([H:25])[c:16]1[H:26])[H:21])([H:17])([H:18])[H:19],53.1368
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([O:12])([H:13])([H:14])[H:15]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:4])[H:5].[H:3][O:12][C:11]([H:13])([H:14])[H:15],29.288
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:26]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][H:26],18.706664
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[C:10](=[S:11])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:12])[H:5].[C:10](=[S:11])[H:13],118.7
[O:0][H:1].[c:2]1([H:18])[c:3]([H:19])[c:4]2[c:5]([H:20])[c:6]([H:21])[c:7]3[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]4[c:12]([H:25])[c:13]([H:26])[c:14]([c:15]1[H:27])[c:16]2[c:17]34>>[O:0]([H:1])[H:18].[c:2]1[c:3]([H:19])[c:4]2[c:5]([H:20])[c:6]([H:21])[c:7]3[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]4[c:12]([H:25])[c:13]([H:26])[c:14]([c:15]1[H:27])[c:16]2[c:17]34,18.300816
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])[H:20])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])[C:7]1([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])[H:12])([H:10])[H:11],76.609
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15]([C:16]([C:17](=[S:18])[H:24])([H:22])[H:23])([H:19])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[H:22])[H:8])([H:6])[H:7].[C:15]([C:16]([C:17](=[S:18])[H:24])[H:23])([H:19])([H:20])[H:21],34.7272
[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])[C:5]([H:16])([H:17])[C:6]1([H:18])[H:19])([H:7])([H:8])[H:9].[O:20][O:21]>>[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([O:20][O:21])[C:5]([H:16])([H:17])[C:6]1([H:18])[H:19])([H:7])([H:8])[H:9],-6.250896
[C:0]([c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]([C:5]([H:13])([H:14])[H:15])[c:6]([H:16])[c:7]1[H:17])([H:8])([H:9])[H:10].[H:18]>>[C:0]([c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]([C:5]([H:13])([H:14])[H:15])[c:6]([H:16])[c:7]1[H:17])([H:9])[H:10].[H:8][H:18],14.158656
[C:0]([H:1])([H:2])[H:3].[O:4][O:5][H:6]>>[C:0]([H:1])([H:2])([H:3])[H:6].[O:4][O:5],-12.644048
[C:0]([C:1](=[O:2])[C:3]([C:4]([C:5]([H:14])([H:15])[H:16])([O:6][O:7][H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:0]([C:1](=[O:2])[C:3]([C:4]([C:5]([H:14])([H:15])[H:16])([O:6])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:7][H:17],178.2384
[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])[H:10].[C:19](=[C:20]([C:21]([C:22]([H:28])([H:29])[H:30])[C:23](=[C:24]([H:32])[H:33])[H:31])[H:27])([H:25])[H:26]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[C:21]([C:20](=[C:19]([H:25])[H:26])[H:27])([C:22]([H:28])([H:29])[H:30])[C:23](=[C:24]([H:32])[H:33])[H:31],61.7977
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:27][H:28]>>[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:21][O:27][H:28],-4.807416
